US08445684B2
To a stirred solution/suspension of 3-bromo-5-[(1-methyl-2(S)-pyrrolidinyl)methoxy]pyridine (Lin, N. H.; He, Y.; Holladay, M. W.; Ryther, K.; Li, Y. U.S. Pat. No. 5,629,325, 1997) (2.50 g, 9.22 mmol), PPh3 (798 mg, 3.04 mmol, 0.33 equiv.) and CuI (790 mg, 2.52 mmol, 0.27 equiv.) in triethylamine (24 mL) was added PdCl2(PPh3)2 (647 mg, 0.92 mmol, 0.1 equiv.). The mixture was stirred at room temperature for 20 min under argon, then ethynyltrimethylsilane (3.9 mL, 27.6 mmol, 3.0 equiv.) was added. The reaction mixture was stirred at 60° C. for 24 h. Saturated aqueous NH4Cl solution was added, and the mixture was extracted with CH2Cl2, dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by CC on SiO2 with CH2Cl2/MeOH 9:1 to give 3-[[(1-methyl-2(S)-pyrrolidinyl)methoxy]-5-[(trimethylsilyl)ethynyl]pyridine (2.30 g, 86%).

reactant | 3-bromo-5-[(1-methyl-2(S)-pyrrolidinyl)methoxy]pyridine | BrC=1C=NC=C(C1)OC[C@H]1N(CCC1)C | C11H15BrN2O
reactant | PPh3 | 3.04 mmol, 798 mg, 0.33 equiv. | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | ethynyltrimethylsilane | 27.6 mmol, 3.9 mL, 3.0 equiv. | C(#C)[Si](C)(C)C | C5H10Si
reactant | NH4Cl | [NH4+].[Cl-]
solvent | triethylamine | 24 mL | C(C)N(CC)CC | C6H15N
catalyst | CuI | 2.52 mmol, 790 mg, 0.27 equiv. | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.92 mmol, 647 mg, 0.1 equiv. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | [(1-methyl-2(S)-pyrrolidinyl)methoxy]-5-[(trimethylsilyl)ethynyl]pyridine | 2.30 g, 86% | CN1[C@@H](CCC1)COC1=NC=C(C=C1)C#C[Si](C)(C)C | C16H24N2OSi
